US07528134B2
N-(4-chlorophenyl)-2-[4-(2-pyridinyl)-1-piperazinyl]acetamide
A mixture of 1-pyridin-2-ylpiperazine (24 mg, 0.15 mmol, Aldrich), N-(4-chlorophenyl)-2-chloroacetamide (41 mg, 0.20 mmol, Maybridge) and sodium carbonate (50 mg) in N,N-dimethylformamide/water (2:1, 2 mL) was shaken at room temperature for 18 hours. The resulting mixture was decanted, concentrated under reduced pressure and the residue purified by preparative HPLC to provide 42 mg (85%) of the desired product. 1H NMR (500 MHz, DMSO-d6) δ b2.60 (t, J=4 Hz, 4H), 3.21 (s, 2H), 3.58 (t, J=4 Hz, 4H), 6.63 (t, J=5 Hz, 1H), 6.83 (d, J=6 Hz, 1H), 7.38 (d, J=6 Hz, 2H), 7.54 (t, J=6 Hz, 1H), 7.70 (d, J=6 Hz, 2H), 8.12 (d, J=5 Hz, 1H), 9.90 (s, 1H); MS (ESI/APCI+) m/e 331 (M+H)+.

reactant | 1-pyridin-2-ylpiperazine | 0.15 mmol, 24 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | N-(4-chlorophenyl)-2-chloroacetamide | 0.20 mmol, 41 mg | ClC1=CC=C(C=C1)NC(CCl)=O | C8H7Cl2NO
reactant | sodium carbonate | 50 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide water | 2 mL | CN(C=O)C.O
product | N-(4-chlorophenyl)-2-[4-(2-pyridinyl)-1-piperazinyl]acetamide | 42 mg, 85% | ClC1=CC=C(C=C1)NC(CN1CCN(CC1)C1=NC=CC=C1)=O | C17H19ClN4O
